US04804662
1-(4-Fluorobenzoyl)-3-methylpiperazine
Add 25.0g (0.158 mol) of p-fluorobenzoyl chloride drop-wise to a 0° C. solution of 15.0 g (0.150 mol) of N-methylpiperazine and 20.0 g (0.189 mol) of sodium carbonate in 100 mL of water. Stir the resultant solution at 0° C. for about 30 minutes, then at room temperature for about 2 hr. Extract the resultant solution with methylene chloride (2×100 mL). Dry the combined extracts with Na2SO4 and evaporate the solvent to give the title compound.

reactant | p-fluorobenzoyl chloride | 0.158 mol, 25.0g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | N-methylpiperazine | 0.150 mol, 15.0 g | CN1CCNCC1 | C5H12N2
reactant | sodium carbonate | 0.189 mol, 20.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 100 mL | O | H2O
product | 1-(4-Fluorobenzoyl)-3-methylpiperazine | FC1=CC=C(C(=O)N2CC(NCC2)C)C=C1 | C12H15FN2O
